### PR TITLE
add elementary lemmas about modules

### PR DESCRIPTION
**Pull request by siddharthist**
Some direct consequences of the module laws

### CODE REVIEW

File: theory/modules.v [hunk 1]
```diff
@@ -0,0 +1,32 @@
...
+
+(*
+  A proof of the uniqueness of inverses is omitted, because it follows
+  from the proof Injective (-) in groups.v
+*)
+
+Section Module_Lemmas.
+  Context `{Module R M}.
+
+  Lemma mon_unit_unique : forall i, ((forall x : M, x & i = x) -> i = mon_unit).
```
Comment (urkud) [inline theory/modules.v]: It seems that this lemma does not need a module structure. You just need M to be a group.
By the way, the following order of quantifiers is enough: ∀x i : M, x & i = x → i = mon_unit.

File: theory/modules.v [hunk 2]
```diff
@@ -0,0 +1,32 @@
...
+    intros i Hyp.
+    assert (Hunit : mon_unit & i = mon_unit) by (apply Hyp).
+    now rewrite left_identity in Hunit.
+  Qed.
+
+  Lemma mult_rzero : forall x : M, sm 0 x = mon_unit.
```
Comment (urkud) [inline theory/modules.v]: Why not use ⋅ notation? It is more readable.
Disclaimer: I'm neither a coq exprert, nor an experienced math-classes user.

File: theory/modules.v [hunk 3]
```diff
@@ -0,0 +1,32 @@
...
+    intros.
+    (* add mon_unit to the left side *)
+    rewrite <- right_identity.
```
Comment (urkud) [inline theory/modules.v]: You may use the following for the proof
```coq
  intros.
  apply (mon_unit_unique (0 · x) (0 · x)).
  rewrite <- distribute_r.
  now rewrite left_identity.
```
if `mon_unit_unique` is what I propose above.

File: theory/modules.v (hunk 1 above)
Comment (siddharthist) [inline theory/modules.v]: @urkud Thanks for the tips!

File: theory/modules.v (hunk 2 above)
Comment (siddharthist) [inline theory/modules.v]: I don't know how to type it effectively :'( I should've copy-pasted before making a PR

Comment (urkud) [inline theory/modules.v]: I use ~/.XCompose under Linux to type these chars.

File: theory/modules.v (hunk 3 above)
Comment (urkud) [inline theory/modules.v]: This works:
```coq
  apply scalar_mult_proper ; [apply right_identity|reflexivity].
```
I have no idea why it fails to rewrite. And why it rewrites in your proof.

**Comment by siddharthist** [comment]
@urkud I believe I've addressed all of your comments. Thanks again for the review, very helpful for a beginner like myself 😁

**Comment by siddharthist** [comment]
I welcome feedback on lemma names as well (the hardest part of Computer Science, right?)

File: theory/modules.v [hunk 4]
```diff
@@ -0,0 +1,60 @@
...
+  from the proof Injective (-) in groups.v
+*)
+
+Section Module_Lemmas.
+  Context `{Module R M}.
+
+  (* So we can use the `ring` tactic when we need to *)
+  Add Ring my_ring : (stdlib_ring_theory R). 
+
+  Lemma mult_rzero : forall x : M, 0 · x = mon_unit.
```
Comment (urkud) [inline theory/modules.v]: This and `mult_munit` are particular cases of the following fact: a `SemiGroup_Morphism` of two groups preserves `mon_unit`.
I'm going to submit a pull request for `theory/groups.v` with this fact included.

File: theory/modules.v [hunk 5]
```diff
@@ -0,0 +1,60 @@
...
+    rewrite <- right_identity.
+    assert (intermediate : mon_unit = c · mon_unit & - (c · mon_unit)) by
+      now rewrite right_inverse.
+    rewrite intermediate at 2.
+    rewrite associativity.
+    rewrite <- distribute_l.
+    now rewrite left_identity, right_inverse.
+  Qed.
+
+  Lemma multiplication_by_negative_1_is_negation : forall x : M, (-1) · x = - x.
```
Comment (urkud) [inline theory/modules.v]: Cf. `negate_mult_distr_l` and `negate_nult_distr_r` in `rings.v`.

File: theory/modules.v [hunk 6]
```diff
@@ -0,0 +1,60 @@
...
+      setoid_replace (1 - 1) with 0 by (apply right_inverse).
+      apply mult_rzero.
+    }
+    setoid_replace (- x) with (- x & mon_unit) by (now rewrite right_identity).
+    rewrite <- H0.
+    rewrite associativity, left_inverse, left_identity.
+    reflexivity.
+  Qed.
+
+  Lemma double_negation : forall x, - (- x) = x.
```
Comment (urkud) [inline theory/modules.v]: This is a particular case of `groups.negate_involutive` (or `rings.negate_involutive`). Doesn't need module structure.

File: theory/modules.v (hunk 4 above)
Comment (siddharthist) [inline theory/modules.v]: Great, please comment here when that is done!

File: theory/groups.v [hunk 7]
```diff
@@ -43,6 +43,12 @@ Proof.
   now rewrite associativity, left_inverse, left_identity.
 Qed.
 
+Lemma mon_unit_unique : forall x i, x & i = x -> i = mon_unit.
```
Comment (siddharthist) [inline theory/groups.v]: Yep, good eye!

File: theory/modules.v [hunk 8]
```diff
@@ -0,0 +1,60 @@
+From MathClasses.interfaces Require Import vectorspace canonical_names.
+From MathClasses.theory Require Import groups rings.
```
Comment (siddharthist) [inline theory/modules.v]: Thanks, fixed!

File: theory/modules.v (hunk 5 above)
Comment (siddharthist) [inline theory/modules.v]: Those lemmas are about ring multiplication, and do not apply to `sm` as far as I can tell. Am I mistaken? Why do you mention them?

File: theory/modules.v (hunk 6 above)
Comment (siddharthist) [inline theory/modules.v]: Removed, thanks!

**Comment by siddharthist** [comment]
@urkud Thanks for the review!

**Comment by urkud** [comment]
I've pushed the group theory fact mentioned in the review to urkud/math-classes@d41ec3da59c826783e3ad6499a56c90b4765b0d9.

**Comment by spitters** [comment]
Is this PR still valid, or has it been superseded?
If you update, I'll pull the request.

**Comment by siddharthist** [comment]
@spitters I think it needs cleaning up before it can be merged. I'll comment here if and when I get around to it.

**Comment by siddharthist** [comment]
I don't think I'm going to get around to fixing this. I'm making an issue to include my fixes to the laws for inner product spaces in case anyone wants to take that up.
